US04273779
The solution of 24.9 g of 5-benzylideneaminopyridine-2-carboxylic acid methyl ester in 70 ml of hot dimethylformamide is added all at once to the solution of 7.0 g of sodium borohydride in 300 ml of methanol while stirring at -20° C. The temperature of the reaction mixture raises spontaneously to 20° and is lowered to 0° by cooling. After 2 hours the mixture is warmed to room temperature for 15 minutes to ensure complete reaction. Approximately 1/2 of the methanol is distilled off, the concentrate is cooled to 0° and 3 ml of acetic acid and the solution of 12 ml of 12 N hydrochloric acid in 100 ml ice water is added. A precipitate begins to separate and 200 ml more ice water are added. After 30 minutes the precipitate is collected and washed well with water and recrystallized from acetonitrile, to yield the 5-benzylaminopyridine-2-carboxylic acid methyl ester, melting at 104°-107°.

reactant | 5-benzylideneaminopyridine-2-carboxylic acid methyl ester | 24.9 g | COC(=O)C1=NC=C(C=C1)N=CC1=CC=CC=C1 | C14H12N2O2
reactant | sodium borohydride | 7.0 g | [BH4-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
product | 5-benzylaminopyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)NCC1=CC=CC=C1 | C14H14N2O2
